US09421205B2
(b) Methyl 2-ethynylisonicotinate (I126)
To a solution of methyl 2-((trimethylsilyl)ethynyl)isonicotinate (1125) (8.00 g, 34.2 mmol) in THF (150 mL) was added TBAF (1.0 M in THF) (51.4 mL, 51.4 mmol) at 0° C. The resulting solution was allowed to warm to room temperature at which stirring was continued for 1 hour. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with 10% NaHCO3 (50 mL). The organic layer was dried (MgSO4) and evaporated under reduced pressure to give a dark brown/black residue. The residue was adsorbed onto silica gel and purified by chromatography (SiO2, 0-20% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I126) (4.5 g, 81%) as a yellow solid; 1H NMR (400 MHz, CDCl3) δ 8.73 (dd, J=5.1, 0.9 Hz, 1H), 8.01 (dd, J=1.5, 0.9 Hz, 1H), 7.80 (dd, J=5.1, 1.6 Hz, 1H), 3.95 (s, 3H), 3.22 (s, 1H).

reactant | methyl 2-((trimethylsilyl)ethynyl)isonicotinate | 34.2 mmol, 8.00 g | C[Si](C)(C)C#CC=1C=C(C(=O)OC)C=CN1 | C12H15NO2Si
reactant | TBAF | 51.4 mmol, 1.0 M, 51.4 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 2-ethynylisonicotinate | C(#C)C=1C=C(C(=O)OC)C=CN1 | C9H7NO2
